US06462109B1
PCT/5 wt % EHA/TMPTA Acrylic Emulsion in EG
Dimethyl Terephthalate (77.60 g., 0.4 moles, Cape Industries), 1,4 cyclohexanedimethanol (69.12 g., 0.48 moles, distilled grade), and Ti(iOPr)4 catalyst solution (0.5 ml, 2.07% Ti (wt/vol)) were placed in a 500-ml 2-necked round bottom flask. The flask was equipped with a stainless steel stirrer, a polymer head for nitrogen inlet and volatiles removal, 2 dry ice traps with 2 round bottom flask receivers. A Heller stirrer/motor assembly was used for agitation and a Belmont metal bath with a Eurotherm controller were used as a heat control source. The flask and contents were placed under a nitrogen purge and then placed in a 200° C. molten metal bath. The temperature setting was immediately increased to 285-290° C. The material in the flask was stirred slowly until molten and the agitation then increased. Methanol was removed during the heat-up step. When the polymer bath temperature reached 290° C., acrylic emulsion from Example 4 above (15.54 g. of a 37.13% solids emulsion) was added dropwise over 10 minutes. There was some slight foam during addition, but not excessive. The system was held 10 minutes after all emulsion was added to allow the foam to completely subside before vacuum was applied. The system was placed under full vacuum in 2 minutes with no foam generation observed. After 43 minutes under full vacuum, a polymer with the following properties was obtained: I.V. of 0.80; 2nd cycle Tg of 89° C.; 2nd cycle Tm of 276° C.

reactant | Dimethyl Terephthalate | 0.4 moles, 77.60 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | 1,4 cyclohexanedimethanol | 0.48 moles, 69.12 g | C1(CCC(CC1)CO)CO | C8H16O2
product | TMPTA | CCC(COC(=O)C=C)(COC(=O)C=C)COC(=O)C=C | C15H20O6
